US06455708B1
Preparation of N-(2-Cyanoethyl)-5-fluoro-4-fluoromethyl-4-(4-trifluoromethylphenoxy)-2-pentynamide
An amount (1.1 g) of 5-fluoro-4-fluoromethyl-4-(4-trifluoromethylphenoxy)-2-pentynoic acid and triethylamine (903 mg) were dissolved in dichloromethane (20 ml); to the solution under stirring at −10° C., ethyl chloroformate (464 mg) was added dropwise and the mixture was stirred at −10° C. for another one hour. Subsequently, 3-aminopropionitrile (500 mg) was added to the reaction mixture, followed by stirring at room temperature for 2 hours. To the reaction mixture, a hexane/ethyl acetate mixed solvent (1/1) was added and the resulting mixture was washed with 0.1 N HCl, a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of sodium chloride, dried with anhydrous sodium sulfate and concentrated under reduced pressure; the resulting residue was subjected to silica gel column chromatography (eluent; hexane/ethyl acetate=3/2) to give the titled compound (1.2 g) as a colorless oil.

reactant | 5-fluoro-4-fluoromethyl-4-(4-trifluoromethylphenoxy)-2-pentynoic acid | 1.1 g | FCC(C#CC(=O)O)(OC1=CC=C(C=C1)C(F)(F)F)CF | C13H9F5O3
reactant | triethylamine | 903 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 464 mg | ClC(=O)OCC | C3H5ClO2
reactant | 3-aminopropionitrile | 500 mg | NCCC#N | C3H6N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | N-(2-Cyanoethyl)-5-fluoro-4-fluoromethyl-4-(4-trifluoromethylphenoxy)-2-pentynamide | 1.2 g | C(#N)CCNC(C#CC(CF)(OC1=CC=C(C=C1)C(F)(F)F)CF)=O | C16H13F5N2O2
